US09278944B2
To a solution of 6-bromo-1-(3-methoxypropyl)-1H-pyrrolo[3,2-b]pyridine (1.5 g) in toluene (30 mL) were added tri-n-butyltin-1-ethoxyvinyl (5.65 mL) and dichlorobis(triphenylphosphine)palladium (II) (782 mg), and the mixture was heated to stir at 110° C. for 30 minutes. The reaction solution was cooled to room temperature, and then thereto was added water-ethyl acetate, and an insoluble was filtered through Celite. The organic layer was separated, and then washed with saturated saline, dried over magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by NH-silica gel column chromatography (eluent: n-hexane/ethyl acetate=4/1→1/1) to give 6-(1-ethoxyvinyl)-1-(3-methoxypropyl)-1H-pyrrolo[3,2-b]pyridine [REx(23-2)] (1.69 g) as a yellow oil.

reactant | 6-bromo-1-(3-methoxypropyl)-1H-pyrrolo[3,2-b]pyridine | 1.5 g | BrC=1C=C2C(=NC1)C=CN2CCCOC | C11H13BrN2O
reactant | water ethyl acetate | O.C(C)(=O)OCC
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dichlorobis(triphenylphosphine)palladium | 782 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(1-ethoxyvinyl)-1-(3-methoxypropyl)-1H-pyrrolo[3,2-b]pyridine | 1.69 g | C(C)OC(=C)C=1C=C2C(=NC1)C=CN2CCCOC | C15H20N2O2
